US04414225
Ethyl 6-ethyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate
3.15 gm (0.01 mol) of ethyl 6-benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate were refluxed with the same amount of Raney nickel in 50 ml of ethyl alcohol for 6 hours. The catalyst was then removed by suction filtering, and the filtrate was concentrated by evaporation.

reactant | ethyl 6-benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate | 0.01 mol, 3.15 gm | C(C1=CC=CC=C1)N1CCC2=C(CC1)C=C(S2)C(=O)OCC | C18H21NO2S
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | Ethyl 6-ethyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate | C(C)N1CCC2=C(CC1)C=C(S2)C(=O)OCC | C13H19NO2S
